US08895547B2
N-[2,4-Dimethoxybenzyl]-2-(4-tert-butylphenyl)-3-hydroxy-3-methylbutane-2-sulfonamide
Under inert gas, 1.01 g of N-[2,4-dimethoxybenzyl]-1-(4-tert-butylphenyl)ethanesulfonamide were initially charged in 20 ml of THF and then, at a temperature of −75° C., 3.23 ml of a 1.6 N butyllithium solution in hexane were added dropwise and the mixture was stirred for 10 minutes. After the addition of 1.16 ml of acetone, the reaction mixture was stirred at constant temperature for 10 minutes. Subsequently, 0.45 ml of trifluoroacetic acid was added and the reaction solution was allowed to come to room temperature. After concentration by rotary evaporation, the crude product was purified using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (484 mg) with a molecular weight of 449.6 g/mol (C24H35NO5S).

reactant | N-[2,4-dimethoxybenzyl]-1-(4-tert-butylphenyl)ethanesulfonamide | 1.01 g | COC1=C(CNS(=O)(=O)C(C)C2=CC=C(C=C2)C(C)(C)C)C=CC(=C1)OC | C21H29NO4S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 1.16 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 0.45 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | N-[2,4-Dimethoxybenzyl]-2-(4-tert-butylphenyl)-3-hydroxy-3-methylbutane-2-sulfonamide | 484 mg | COC1=C(CNS(=O)(=O)C(C)(C(C)(C)O)C2=CC=C(C=C2)C(C)(C)C)C=CC(=C1)OC | C24H35NO5S
